US04980464
To 5.03 g of 7β-D-5-carboxy-5-phthalimidovaleramido)-3-cephem-4-carboxylic acid were added 100 ml of tetra-hydrofuran-methylene chloride mixture solution (1:2,v/v), 1.74 g of 5-mercapto-1-methyl-1H-tetrazole and 2.3 ml of trimethyl phosphite in sequence. The reaction was allowed to proceed at 18 to 22° C. for 3.5 hours while stirring. To the reaction solution was added 30 ml of 1N HCl, and the mixture was stirred for 30 minutes, which was concentrated under reduced pressure to about 30 ml. To the concentrate was added 30 ml of methylene chloride, to which was added 1N NaOH to render the pH to 5.6, followed by separating the organic layer from the aqueous layer. To the aqueous layer was added 30 ml of tetrahydrofuran-methylene chloride mixture solution (1:1,v/v), whose pH was changed to 2.0 with 2N HCl, then the organic layer was separated. The aqueous layer was subjected to extraction with 30 ml of the same mixture solution. The organic layers were combined, washed with saturated aqueous saline solution and dried on anhydrous magnesium sulfate, followed by concentration under reduced pressure. The concentrate was poured into 300 ml of ether and the precipitating matter was collected by filtration, washed with ether and dried to obtain 5.86 g (yield:97.4%) of 7β-D-5-carboxy-5-phthalimidovaleramido)-3-(1-methyl-1H-tetrazol-5-yl) thiomethyl-3-cephem-4-carboxylic acid as white powder.

reactant | 3-cephem-4-carboxylic acid | S1CC=C(N2[C@H]1CC2=O)C(=O)O | C7H7NO3S
reactant | 5-mercapto-1-methyl-1H-tetrazole | 1.74 g | SC1=NN=NN1C | C2H4N4S
reactant | trimethyl phosphite | 2.3 ml | P(OC)(OC)OC | C3H9O3P
reactant | HCl | 1N, 30 ml | Cl | ClH
solvent | tetra-hydrofuran methylene chloride | 100 ml | O1CCCC1.C(Cl)Cl
product | 3-(1-methyl-1H-tetrazol-5-yl) thiomethyl-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | C10H11N5O3S2
